US06548538B2
A solution of 600 mg (1.75 mmol) of tert-butyl 3-(4-{[(2-furylmethyl)amino]-methyl}phenyl)-2,2-dimethylpropionate (Example I-5), 323 mg (0.87 mmol) of tetra-n-butylammonium iodide and 265 mg (2.62 mmol) of triethylamine in 10 ml of THF is treated with 438 mg (2.62 mmol) of ethyl bromoacetate and heated at reflux overnight. After cooling, the mixture is concentrated under reduced pressure, the residue is taken up in water and ethyl acetate, the aqueous phase is extracted 2× with ethyl acetate and the combined organic phases are washed with NaCl solution and dried over sodium sulphate. The solvent is removed under reduced pressure, and chromatographic purification on silica gel (cyclohexane→cyclohexane/ethyl acetate 10:1) then gives 702 mg (94%) of tert-butyl 3-(4-{[(2-ethoxy-2-oxoethyl)(2-furylmethyl)amino]methyl}phenyl)-2,2-di methylpropionate.

reactant | tert-butyl 3-(4-{[(2-furylmethyl)amino]-methyl}phenyl)-2,2-dimethylpropionate | 1.75 mmol, 600 mg | O1C(=CC=C1)CNCC1=CC=C(C=C1)CC(C(=O)OC(C)(C)C)(C)C | C21H29NO3
reactant | triethylamine | 2.62 mmol, 265 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 2.62 mmol, 438 mg | BrCC(=O)OCC | C4H7BrO2
catalyst | tetra-n-butylammonium iodide | 0.87 mmol, 323 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-(4-{[(2-ethoxy-2-oxoethyl)(2-furylmethyl)amino]methyl}phenyl)-2,2-di methylpropionate | 702 mg, 94% | C(C)OC(CN(CC=1OC=CC1)CC1=CC=C(C=C1)CC(C(=O)OC(C)(C)C)(C)C)=O | C25H35NO5
